US06090825
To a 3-l round bottom flask containing thionyl chloride (21.1 mL, 291 mmole) and dichloromethane (900 mL) is added dimethyl formamide (28 mL, 364 mmole). The solution is stirred for 10 minutes then {4-[5-(4-fluorophenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl} acetonitrile (45.9 g, 145 mmole) is added in one portion. The resulting slurry is stirred for 30 minutes then 2 N aqueous sodium hydroxide (900 mL) is added. The organic layer is separated, washed with saturated aqueous sodium chloride (500 mL), dried over sodium sulfate (100 g), filtered and concentrated to an oil. The oil is dissolved in tetrahydrofuran (120 mL) then a 0° C. solution of 1 N potassium t-butoxide in t-butanol (437 mL, 437 mmole) and 2,2,2-trifluoroethanol (40.2 mL, 582 mmole) is added. The reaction mixture is warmed to room temperature and stirred for 18 hours. The solvent volume is reduced to 100 mL by distillation, then water (700 mL) is added. The aqueous suspension is washed with methyl t-butylether (700 mL). The organic extract is washed with saturated aqueous sodium chloride then concentrated to an oil (50 mL). To the oil is added ethanol (450 mL), water (150 ml), 36% aqueous hydrochloric acid (24.3 mL, 291 mmole) and 35% aqueous hydrazine (26.6 mL, 291 mmole). The resulting solution is warmed to 80° C., stirred for 3 hours, cooled to room temperature and sodium hydroxide (17.4 g, 435 mmole) is added. The solvent volume is reduced to 320 mL by distillation and water (600 mL) is added. The aqueous suspension is washed with dichloromethane (2×500 mL). The dichloromethane extracts are washed with water, then 500 mL of a 3:2:1:1 solution of saturated aqueous sodium chloride:water:36% aqueous hydrochloric acid:ethanol. The aqueous sodium chloride:water:36% aqueous hydrochloric acid:ethanol solution is washed again with dichloromethane (500 mL). The combineed dichloromethane extracts are dried over sodium sulfate (100 g), filtered and concentrated to 250 mL to effect crystallization. To complete the crystallization, methyl t-butylether (500 mL) is added and the resulting slurry is cooled to 0° C. The solids are collected by filtration, washed with methyl t-butylether (100 mL) and dried to constant weight to give {4-[5-(4-fluorophenyl)-4-(2,2,2-trifluoroethoxymethyl)-oxazol-2-yl]-piperidine hydrochloride (47.3 g, 120 mmole). 1H NMR (400 MHz, d6 DMSO) d 1.96 (m, 2H), 2.20 (m, 2H), 3.02 (q, 2H), 3.30 (m, 3H), 4.18 (q, 2H), 4.66 (s, 2H), 7.37 (t, 2H), 7.68 (q, 2H), 9.0 (bs, 1H), 9.20 (bs, 1H).

reactant | thionyl chloride | 291 mmole, 21.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethyl formamide | 364 mmole, 28 mL | CN(C=O)C | C3H7NO
reactant | {4-[5-(4-fluorophenyl)-4-hydroxymethyl-oxazol-2-yl]-piperidin-1-yl} acetonitrile | 145 mmole, 45.9 g | FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)CC#N)CO | C17H18FN3O2
reactant | sodium hydroxide | 2 N, 900 mL | [OH-].[Na+]
reactant | potassium t-butoxide | 1 N | CC(C)([O-])C.[K+]
reactant | t-butanol | 437 mmole, 437 mL | C(C)(C)(C)O | C4H10O
reactant | 2,2,2-trifluoroethanol | 582 mmole, 40.2 mL | FC(CO)(F)F | C2H3F3O
reactant | hydrochloric acid | 291 mmole, 24.3 mL | Cl | ClH
reactant | hydrazine | 291 mmole, 26.6 mL | NN | H4N2
reactant | sodium hydroxide | 435 mmole, 17.4 g | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
solvent | ethanol | 450 mL | C(C)O | C2H6O
solvent | dichloromethane | 900 mL | ClCCl | CH2Cl2
product | 4-[5-(4-fluorophenyl)-4-(2,2,2-trifluoroethoxymethyl)-oxazol-2-yl]-piperidine hydrochloride | 120 mmole, 47.3 g | Cl.FC1=CC=C(C=C1)C1=C(N=C(O1)C1CCNCC1)COCC(F)(F)F | InChI=1S/C17H18F4N2O2.ClH/c18-13-3-1-11(2-4-13)15-14(9-24-10-17(19,20)21)23-16(25-15)12-5-7-22-8-6-12;/h1-4,12,22H,5-10H2;1H
